US08802659B2
2-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline-6-carbaldehyde
To 6-Bromo-2-(trans-4-tert-butyl-cyclohexyloxy)-quinoline (1.0933 g, 3.0176 mmol) in Tetrahydrofuran (24 mL) was added 1.6 M of n-Butyllithium in hexane (5.6 mL, 9.0 mmol) at −78° C. and the reaction was stirred for 15 min. N,N-Dimethylformamide (1.2 mL) was added and the reaction was stirred for 30 minutes. 1 M HCl was added and the reaction allowed to warm to RT. Saturated sodium bicarbonate solution was added and the mixture extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried with sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using hexanes/ethyl acetate (0-50%) as eluent to give product in 603 mg yield (64%). ESI-MS (M+H+): 312.20.

reactant | 6-Bromo-2-(trans-4-tert-butyl-cyclohexyloxy)-quinoline | 3.0176 mmol, 1.0933 g | BrC=1C=C2C=CC(=NC2=CC1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C19H24BrNO
reactant | n-Butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 9.0 mmol, 5.6 mL | CCCCCC | C6H14
reactant | HCl | 1 M | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
solvent | N,N-Dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 2-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline-6-carbaldehyde | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)C=O | C20H25NO2
